US08114868B2
1-chloro-5-methyl-3-phenylhex-5-en-3-ol (1.28 g, 5.7 mmol), (S)-1-(4-bromophenyl)ethanamine (1.37 g, 1.2 equiv), KI (995 mg, 1.05 equiv), K2CO3 (1.57 g, 2 equiv) were mixed with acetonitrile (15 mL) and heated to reflux (oil bath 96° C.) for overnight. After being cooled to rt, the mixture was filtered, concentrated, and purified by chromatography on a 40-g silica gel column, eluted with 0-8% MeOH in CH2Cl2, to afford 1-((S)-1-(4-bromophenyl)ethylamino)-5-methyl-3-phenylhex-5-en-3-ol (1.33 g, 60%).

reactant | 1-chloro-5-methyl-3-phenylhex-5-en-3-ol | 5.7 mmol, 1.28 g | ClCCC(CC(=C)C)(O)C1=CC=CC=C1 | C13H17ClO
reactant | (S)-1-(4-bromophenyl)ethanamine | 1.37 g, 1.2 equiv | BrC1=CC=C(C=C1)[C@H](C)N | C8H10BrN
reactant | K2CO3 | 1.57 g, 2 equiv | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 1-((S)-1-(4-bromophenyl)ethylamino)-5-methyl-3-phenylhex-5-en-3-ol | 1.33 g, 60% | BrC1=CC=C(C=C1)[C@H](C)NCCC(CC(=C)C)(O)C1=CC=CC=C1 | C21H26BrNO
